US04657899
4-[2-Phosphonomethylphenyl]-2-aminobutanoic acid
A solution of 2.5 g (5.3 mmol) of ethyl 4-[2-(diethylphosphonomethyl)-phenyl]-2-acetamido-2-carboethoxybutanoate in 50 mL of 6N HCl was stirred at vigorous reflux for 12 h. After cooling to room temperature the reaction mixture was concentrated at reduced pressure yielding an oil. This oil was washed with three 50 mL portions of water then dissolved in 95% ethanol and a slight excess of propylene oxide added. The precipitated acid was collected by filtration and recrystallized from dilute ethanol yielding 1.26 g (77%) of the product as a white solid: mp 247°-249° C. IR(KBr): 1725, 1620 cm-1 ; 1H NMR (D2O) δ 2.0-3.4 (6H unresolved), 3.9-4.3 (m, 1H), 7.4 (s, 4H); Anal. Calcd. for C11H16NO5P0.5H2O: Calcd: C, 46.62; H, 6.05; N, 4.94. Found: C, 46.73; H, 6.04; N, 4.79.

reactant | ethyl 4-[2-(diethylphosphonomethyl)-phenyl]-2-acetamido-2-carboethoxybutanoate | 5.3 mmol, 2.5 g | C(C)OP(=O)(OCC)CC1=C(C=CC=C1)CCC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C22H34NO8P
solvent | HCl | 6N, 50 mL | Cl | ClH
product | 4-[2-Phosphonomethylphenyl]-2-aminobutanoic acid | P(=O)(O)(O)CC1=C(C=CC=C1)CCC(C(=O)O)N | C11H16NO5P
